US07495004B2
7-(2-Chloro-6-fluorobenzyl)-1,3-dimethyl-8-phenyl-3,7-dihydro-1H-purine-2,6-dione
A solution of 8-bromo-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione (100 mg, 0.25 mmol) in 260 μL aqueous sodium carbonate (2 M), 650 μL toluene, and 110 μL ethanol was treated with commercially available phenylboronic acid (34 mg, 0.27 mmol), tetrakis(triphenylphosphine)-palladium(0) (9 mg, 0.0075 mmol), and lithium chloride (catalytic). The reaction mixture was heated to 100° C. in a sealed vial and stirred overnight The reaction mixture was cooled and separated between water and ether. The aqueous layer was extracted with ether (3×) and the combined organics were dried with magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel cartridge, Biotage, 32-63 μm, 60 Å) with 50% EtOAc:hexanes as the eluent to afford 71 mg (71% yield) of the title compound as a white solid: 1H NMR (CDCl3, 300 MHz) 7.61-7.36 (m, 5H), 7.19-7.04 (m, 2H), 6.88-6.76 (m, 1H), 5.89 (s, 2H), 3.67 (s, 3H), 3.43 (s, 3H); MS (ESP+) m/e 400 (MH+); TLC (EtOAc:hexanes/1:1) Rf=0.45.

reactant | 8-bromo-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione | 0.25 mmol, 100 mg | BrC1=NC=2N(C(N(C(C2N1CC1=C(C=CC=C1F)Cl)=O)C)=O)C | C14H11BrClFN4O2
reactant | ethanol | 110 μL | C(C)O | C2H6O
reactant | phenylboronic acid | 0.27 mmol, 34 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | lithium chloride | [Cl-].[Li+]
solvent | sodium carbonate | 2 M, 260 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 650 μL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.0075 mmol, 9 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-(2-Chloro-6-fluorobenzyl)-1,3-dimethyl-8-phenyl-3,7-dihydro-1H-purine-2,6-dione | 71 mg, 71% yield | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)C)C2=CC=CC=C2)C(=CC=C1)F | C20H16ClFN4O2
